US08017631B2
3-{5-(1-Methyl-1H-pyrrol-2-yl)-[1,2,4]oxadiazol-3-yl}-pyridine (Compound 5.1)
3-{5-(1H-pyrrol-2-yl)-[1,2,4]oxadiazol-3-yl}-pyridine (1 g; 0.5 mmol) in 15 ml of dry THF at −70° C. was added 0.18 g of sodium hexamethyl disilazide (1 mmol), the reaction mixture was stirred at −70° C. for 30 min. and at 0° C. for 1 hour. The reaction mixture was cooled to −70° C. and added 0.076 g of iodomethane (0.52 mmol). The reaction mixture was stirred at −70° C. for ½ hour, then at room temperature overnight. The product was isolated by column chromatography. Yield 0.04 g of yellow solid (37%). Mp. 108-109° C.

reactant | 3-{5-(1H-pyrrol-2-yl)-[1,2,4]oxadiazol-3-yl}-pyridine | 0.5 mmol, 1 g | N1C(=CC=C1)C1=NC(=NO1)C=1C=NC=CC1 | C11H8N4O
reactant | sodium hexamethyl disilazide | 1 mmol, 0.18 g | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | iodomethane | 0.52 mmol, 0.076 g | IC | CH3I
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-{5-(1-Methyl-1H-pyrrol-2-yl)-[1,2,4]oxadiazol-3-yl}-pyridine | CN1C(=CC=C1)C1=NC(=NO1)C=1C=NC=CC1 | C12H10N4O
